US05574042
A mixture of 8-hydroxy-2-methylimidazo[1,2-a]pyridine (296 mg), 1,3-dichloro-2-(2-mesyloxyethyl)benzene (645 mg) and potassium carbonate (828 mg) in N,N-dimethylformamide (12 ml) was stirred for 6 hours at 70° C. The mixture was treated according to a similar manner to that of Preparation 16 to give 8-[2-(2,6-dichlorophenyl)ethyloxy]-2-methylimidazo[1,2-a]pyridine (150 mg).

reactant | 8-hydroxy-2-methylimidazo[1,2-a]pyridine | 296 mg | OC=1C=2N(C=CC1)C=C(N2)C | C8H8N2O
reactant | 1,3-dichloro-2-(2-mesyloxyethyl)benzene | 645 mg | ClC1=C(C(=CC=C1)Cl)CCOS(=O)(=O)C | C9H10Cl2O3S
reactant | potassium carbonate | 828 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 8-[2-(2,6-dichlorophenyl)ethyloxy]-2-methylimidazo[1,2-a]pyridine | 150 mg | ClC1=C(C(=CC=C1)Cl)CCOC=1C=2N(C=CC1)C=C(N2)C | C16H14Cl2N2O
